US07135600B2
i) 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]-N-[(ethylamino)carbonyl]benzenesulfonamide
Ethyl isocyanate (0.015 g) was added to a stirred mixture of 3-[4-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide (0.11 g) and K2CO3 (0.055 g) in acetone (2 ml). The mixture was heated at reflux for 2 h then ethyl isocyanate (0.005 g) was added. After 0.5 h the reaction mixture was cooled and quenched with water (1 ml). The mixture was partitioned between EtOAc (20 ml) and H2O (20 ml). The aqueous phase was extracted with EtOAc (20 ml). The combined EtOAc phases were washed with brine (10 ml) then dried (Na2SO4) and concentrated. The residue was purified by SPE (silica 5 g) with CH2Cl2 (2×15 ml), Et2O (2×15 ml) and EtOAc (2×15 ml), evaporation of the EtOAc fractions afforded the title compound (0.067 g). ES+ve 632 (MH)+

reactant | Ethyl isocyanate | 0.015 g | C(C)N=C=O | C3H5NO
reactant | 3-[4-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide | 0.11 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)N)C | C29H40N2O7S
reactant | K2CO3 | 0.055 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl isocyanate | 0.005 g | C(C)N=C=O | C3H5NO
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]-N-[(ethylamino)carbonyl]benzenesulfonamide | 0.067 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)NC(=O)NCC)C | C32H45N3O8S
